US07635715B2
Step E: Preparation of Ethyl 6-chloro-7-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
A suspension of P2O5 (33.0 g, 232 mmol) in concentrated H2SO4 (29.5 mL, 531 mmol) was cooled 0° C. At 0° C., the suspension was added to diethyl 2-(2-(4-chloro-3-fluorophenyl)-2-methylpropanoyl)malonate (2.90 g, 8.20 mmol), and the mixture was stirred at 25° C. for 1 hour. The reaction was quenched with ice. On melting, it was extracted with EtOAc (3×100 mL), washed with water (150 mL), and then with brine (100 mL). The organic layer was dried over MgSO4 and concentrated in vacuo to give the title compound (1.349 g, 52.6% yield) as a tan solid. MS m/e=313.3 (M+H)+.

reactant | P2O5 | 232 mmol, 33.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H2SO4 | 531 mmol, 29.5 mL | OS(=O)(=O)O | H2O4S
reactant | diethyl 2-(2-(4-chloro-3-fluorophenyl)-2-methylpropanoyl)malonate | 8.20 mmol, 2.90 g | ClC1=C(C=C(C=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C)F | C17H20ClFO5
product | Ethyl 6-chloro-7-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 1.349 g, 52.6% yield | ClC=1C=C2C(=C(C(C(C2=CC1F)(C)C)=O)C(=O)OCC)O | C15H14ClFO4
